US07834048B2
1.6 4-Isopropyl-N-[4-((1R,5S,6R)-3-propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide
0.9 g of 4-isopropyl-N-[4-((1R,5S,6R)-3-propionyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide (2.11 mmol) were dissolved in tetrahydrofuran and 11 ml of a 1 M borane/THF complex in tetrahydrofuran (10.8 mmol) was added at room temperature. The reaction mixture was heated under reflux for 30 minutes, 10 ml of aqueous 2 N hydrochloric acid were added, and the mixture was again refluxed for 3 h. After cooling to room temperature, the solvent was evaporated, the residue was treated with 50% aqueous sodium hydroxide solution, and the aqueous layer was extracted twice with diethyl ether. The combined organic layers were dried over magnesium sulfate, filtered, and the solvent was evaporated to yield 0.824 g of crude product which was then purified via preparative HPLC (column Delta Pak, 40 mm diameter, methanol/water/0.1% acetic acid) to yield 0.078 g of the purified product.

reactant | 4-isopropyl-N-[4-((1R,5S,6R)-3-propionyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide | 2.11 mmol, 0.9 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)C(CC)=O | C24H30N2O3S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.8 mmol | O1CCCC1 | C4H8O
product | 4-Isopropyl-N-[4-((1R,5S,6R)-3-propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide | 0.078 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)CCC | C24H32N2O2S
